US07399774B2
6-(6-Oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide
Using a method similar to Intermediate 1, using 6-hydroxy-2-tetralone (Journal of Organic Chemistry (1999), 64(26), 9719-9721.) (1.55 g, 9.55 mmol), 6-chloronicotinamide (1.49 g, 9.55 mmol) and K2CO3 (1.98 g, 14.3 mmol) gives the title compound (1.32 g), after purification on silica gel (50% THF/DCM), as an amber foam.

reactant | 6-hydroxy-2-tetralone | 9.55 mmol, 1.55 g | OC=1C=C2CCC(CC2=CC1)=O | C10H10O2
reactant | 6-chloronicotinamide | 9.55 mmol, 1.49 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 14.3 mmol, 1.98 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-(6-Oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide | 1.32 g | O=C1CC=2C=CC(=CC2CC1)OC1=NC=C(C(=O)N)C=C1 | C16H14N2O3
